US05563150
Diethyl benzylphosphonate (2.8 ml, 13.4 mmol) was added to a solution of sodium methoxide (0.75 g, 13.6 mmol) in anhydrous dimethylformamide (15 ml) and the resultant mixture stirred at room temperature, under nitrogen, for ten minutes. A solution of 3-fluoropyridine-4-carboxaldehyde [prepared by the method of F. Marsais and G. Queguiner, Tetrahedron, 1983, 39, 2009] (1.55 g, 12.4 mmol) in anhydrous dimethylformamide (10 ml) was added and the reaction mixture stirred at room temperature under nitrogen for 21 hours. The reaction mixture was poured into ice-water (125 ml), the precipitated solid collected under suction and washed with water. The aqueous filtrate was extracted with ethyl acetate (100 ml), the extract dried (MgSO4) and concentrated in vacuo to an off. This off and the solid product were combined and purified by flash chromatography, eluting with 1:2 then 1:1 ethyl acetate/petrol (60°-80° C.), to afford (Z)-3-fluoro-4-(2-phenylethenyl)pyridine (0.25 g, 10%) as a colourless off; δH (CDCl3) 6.55 (1H, d, J 12.3Hz, CH=CHPh), 6.92 (1H, d, J 12.3Hz, CH=CHPh), 7.10 (1H, t, J 5.6Hz, ArH), 7.18-7.27 (5H, m, ArH), 8.18 (1H, d, J 4.9Hz, 6-H) and 8.43 (1H, s, 2-H); and (E)-3-fluoro-4-(2-phenylethenyl)pyridine (0.69 g, 28%) as a white solid; δH (CDCl3) 7.20 (1H, d, J 16.5Hz, CH=CHPh), 7.33-7.43 (4H, m, CH=CHPh and ArH), 7.51 (1H, m, ArH), 7.57 (2H, m, ArH), 8.37 (1H, d, J 5.1Hz, 6-H) and 8.47 (1H, d, J 2.2Hz, 2-H).

reactant | Diethyl benzylphosphonate | 13.4 mmol, 2.8 ml | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
reactant | sodium methoxide | 13.6 mmol, 0.75 g | C[O-].[Na+]
reactant | 3-fluoropyridine-4-carboxaldehyde | FC=1C=NC=CC1C=O | C6H4FNO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (Z)-3-fluoro-4-(2-phenylethenyl)pyridine | 0.25 g, 10% | FC=1C=NC=CC1\C=C/C1=CC=CC=C1 | C13H10FN
